US05635510
74.1 Synthesis of 1-benzyl-4-(4-fluoro-phenyl)-4-cyano-piperidine hydrochloride
4-Fluorophenyl-acetonitrile (5.89 g, 40 mmol), and aqueous sodium hydroxide solution (60 mL, 50% by weight) are combined and then N,N-Bis(2-chloroethyl)-N-benzylamine hydrochloride (11.28 g, 42 mmol) and hexadecyltriethyl phosphonium bromide (1.02 g, 2 mmol) were added. The reaction mixture was heated to 100° C. and stirred vigorously for 1 hour. The reaction mixture is cooled to ambient temperature and water was added. The diluted reaction mixture was acidified with 6M hydrochloric acid solution and extracted with diethyl ether. The aqueous layer is then made basic with solid potassium hydroxide and extracted with ethyl acetate. The organic layer was separated, dried over MgSO4, filtered, and evaporated in vacuo to give a residue. The residue was added to a solution of hydrochloric acid in methanol and the solution was evaporated in vacuo to give a solid. The solid was recrystallized from methanol/ethyl acetate to the title compound: mp=263-264.

reactant | 4-Fluorophenyl-acetonitrile | 40 mmol, 5.89 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | sodium hydroxide | 60 mL | [OH-].[Na+]
reactant | N,N-Bis(2-chloroethyl)-N-benzylamine hydrochloride | 42 mmol, 11.28 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
reactant | hexadecyltriethyl phosphonium bromide | 2 mmol, 1.02 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CC)(CC)CC
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-benzyl-4-(4-fluoro-phenyl)-4-cyano-piperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)F | InChI=1S/C19H19FN2.ClH/c20-18-8-6-17(7-9-18)19(15-21)10-12-22(13-11-19)14-16-4-2-1-3-5-16;/h1-9H,10-14H2;1H
